US06888022B2
Synthesis of N-[N-(2-Pyridylacetyl)-L-alaninyl]-L-phenylalanine Methyl Ester
Following General Procedure C and using 2-pyridylacetic acid hydrochloride (Aldrich) and N-(L-alaninyl)-L-phenylalanine methyl ester hydrochloride (prepared from N-BOC-L-alanine (Sigma) and L-phenylalanine methyl ester hydrochloride (Sigma) using General Procedure C, followed by removal of the BOC-group using General Procedure P), the title compound was prepared as a solid (mp=137-139° C.). The reaction was monitored by tlc (Rf=0.4 in 8% MeOH/CHCl3) and the product was purified by silica gel chromatography using 8% MeOH/CHCl3 as the eluent, followed by recrystallization from 1-chlorobutane/acetonitrile.

reactant | 2-pyridylacetic acid hydrochloride | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | N-(L-alaninyl)-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@@H](N)C)=O)CC1=CC=CC=C1)=O
reactant | N-BOC-L-alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-[N-(2-Pyridylacetyl)-L-alaninyl]-L-phenylalanine Methyl Ester | COC([C@@H](NC([C@@H](NC(CC1=NC=CC=C1)=O)C)=O)CC1=CC=CC=C1)=O | C20H23N3O4
